US06150351
To a solution of benzhydryl 7β-(2-phenylacetamido)-3-(3-carboxymethyl-1,2,4-triazol-5-yl)thio-3-cephem-4-carboxylate (370 mg) in a mixture of dichloromethane (1.2 ml) and anisole (0.4 ml) was added trifluoroacetic acid (0.8 ml) under ice-cooling. The mixture was stirred at room temperature for 50 minutes. The reaction mixture was poured into diisopropyl ether (30 ml), and the resulting precipitate was collected by filtration and dried in vacuo. The precipitate was dissolved in a mixture of aqueous sodium hydrogen carbonate (58 mg/30 ml), tetrahydrofuran (10 ml) and ethyl acetate (30 ml). To the separated aqueous layer was added tetrahydrofuran (10 ml) and ethyl acetate (30 ml), adjusted to pH 2.0 with 1N-hydrochloric acid. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with isopropyl ether to give crude product (190 mg). The crude product (175 mg) was dissolved in a mixture of aqueous sodium bicarbonate (62 mg/10 ml), purified by high pressure liquid chromatography (HPLC) (R-ODS-C-15, YMC-pack) eluting with 20% acetonitrile-phosphate buffer (pH 3.0). The solution was concentrated in vacuo. To the resulting solution was added tetrahydrofuran (10 ml) and ethyl acetate (40 ml) and adjusted to pH 2.2 with 1N-hydrochloric acid. The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate, and concentrated in vacuo. The residue was triturated with isopropyl ether to give 7β-(2-phenylacetamido)-3-(5-carboxymethyl-1,2,4-triazol-3-yl)thio-3-cephem-4-carboxylic acid (25.7 mg).

reactant | benzhydryl 7β-(2-phenylacetamido)-3-(3-carboxymethyl-1,2,4-triazol-5-yl)thio-3-cephem-4-carboxylate | 370 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2=NC(=NN2)CC(=O)O)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H27N5O5S2
reactant | trifluoroacetic acid | 0.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
solvent | anisole | 0.4 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | sodium bicarbonate | 10 ml, 62 mg | C([O-])(O)=O.[Na+]
product | 7β-(2-phenylacetamido)-3-(5-carboxymethyl-1,2,4-triazol-3-yl)thio-3-cephem-4-carboxylic acid | 25.7 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2=NNC(=N2)CC(=O)O)C(=S)O)C1=O | C19H17N5O5S2
